US05180824
Synthesis of 2-Fluoroadenine
A sample of 6-azido-2-fluoropurine (0.18 g) was dissolved in warm 2-propanol (3 mL) and then cooled to ambient temperature. Sodium borohydride (38 mg) was added in small portions. The vigorous gas evolution was allowed to subside between additions. After the addition was complete the mixture was stirred at ambient temperature and then was heated at 72° C. for 1.5 h. The mixture was then cooled to ambient temperature and diluted with water (10 mL) and the pH was adjusted to 6-7 with 1N hydrochloric acid (HCl) and saturated K2CO3 and then the mixture was concentrated to dryness under vacuum. The residue was triturated in 20 mL of hot water then allowed to cool to ambient temperature. The precipitate was collected by filtration, washed with water and dried to obtain 0.08 g of the title compound as an off-white solid, mp>300° C. This material was identical to an authentic sample by TLC, and IR.

reactant | 6-azido-2-fluoropurine | 0.18 g | N(=[N+]=[N-])C1=C2NC=NC2=NC(=N1)F | C5H2FN7
reactant | Sodium borohydride | 38 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 2-Fluoroadenine | 0.08 g | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
